US08212045B2
3-(2-Ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile (1.4 g, 4.19 mmol) was stirred in concentrated sulfuric acid (10 mL) overnight at ambient temperature. Ice (100 g) was added and the solution was neutralized using 4M NaOH. Ice was added as necessary to maintain the temperature below 20° C. The product was extracted into ethyl acetate, washed with brine, dried over MgSO4, filtered and concentrated to afford 3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinamide (1.5 g, 4.2 mmol).

reactant | 3-(2-Ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinonitrile | 4.19 mmol, 1.4 g | C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)C#N | C18H14N4OS
reactant | NaOH | 4M | [OH-].[Na+]
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinamide | 4.2 mmol, 1.5 g | C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)C(=O)N | C18H16N4O2S
